US07776857B2
A 15 ml sealed pressure tube was charged with 4-chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine (120 mg, 0.269 mmol) and 4-methoxypiperidine (620 mg, 5.382 mmol), in 0.3 ml of DMSO. The sealed tube was placed in a preheated oil bath at 100° C. where it was stirred for 16 hours. The reaction was cooled to ambient temperature, diluted with 2 ml of MeOH, and the solution purified using Gilson Reverse Phase HPLC. The fractions containing the desired product was neutralized with saturated sodium bicarbonate and extracted with 10 ml of DCM (3×). The organics were dried over Na2SO4, filtered and the filtrate was concentrated in vacuo to afford N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)-4-(4-methoxypiperidin-1-yl)phthalazin-1-amine as a yellow solid. MS [M+H]+=525.

reactant | 4-chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine | 0.269 mmol, 120 mg | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC2=CC(=CN=C12)OC | C23H16ClN5OS
reactant | 4-methoxypiperidine | 5.382 mmol, 620 mg | COC1CCNCC1 | C6H13NO
solvent | DMSO | 0.3 ml | CS(=O)C | C2H6OS
solvent | MeOH | 2 ml | CO | CH4O
product | N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)-4-(4-methoxypiperidin-1-yl)phthalazin-1-amine | COC1=CN=C2C(=CC=NC2=C1)SC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)N1CCC(CC1)OC | C29H28N6O2S
